US06878728B1
(3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl-(1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-1-[4-(2-{[tert-butyl(dimethyl)silyl]oxy}ethoxy)benzyl]-2-hydroxypropylcarbamate
(3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-(4-hydroxybenzyl)propylcarbamate was treated with 2-{[tert-butyl(dimethyl)silyl]oxy}-1-ethanol (J. Org. Chem. 1986, 51, 3388-3390)/triphenyl phosphine/diisopropyl azodicarboxylate as described above to provide the title compound as solid foam. 1H NMR (DMSO-d6): 0.0 (6H, s), 0.78 (3H, d), 0.82 (3H, d), 0.84 (9H, s), 1.2 (1H, dd), 1.37 (1H, quintuplet), 1.9-2.0 (1H, m), 2.37 (1H, dd), 2.6-2.8 (2H, m), 2.9 (1H, d), 2.98 (1H, dd), 3.2-3.3 (1H m), 3.4-3.5 (1H, m), 3.5-3.6 (4H, m), 3.7 (1H, t), 3.8 (1H, dd), 3.88 (2H, dd), 3.93 (2H, dd), 4.8 (1H, dt), 5.0 (1H, d), 5.45 (1H, d), 6.18 (2H, s), 6.78 (2H, d), 7.0-7.1 (3H, m), 7.18 (1H, d), 7.2 (1H, s), 7.28 (1H, d); MS: 751 (MH+)

reactant | (3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-(4-hydroxybenzyl)propylcarbamate | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)O)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)CC(C)C | C28H36N2O10S
reactant | 2-{[tert-butyl(dimethyl)silyl]oxy}-1-ethanol | [Si](C)(C)(C(C)(C)C)OCCO | C8H20O2Si
reactant | triphenyl phosphine diisopropyl azodicarboxylate | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.N(=NC(=O)OC(C)C)C(=O)OC(C)C
product | (3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl-(1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-1-[4-(2-{[tert-butyl(dimethyl)silyl]oxy}ethoxy)benzyl]-2-hydroxypropylcarbamate | O1C[C@@H]([C@H]2[C@@H]1OCC2)OC(N[C@H]([C@@H](CN(CC(C)C)S(=O)(=O)C2=CC1=C(OCO1)C=C2)O)CC2=CC=C(C=C2)OCCO[Si](C)(C)C(C)(C)C)=O | C36H54N2O11SSi
